.subckt invx2s a z vdd vss VBP VBN
XMP1 z a vdd VBP pmos l= 0.016u w= 0.005u m= 2 nfin= 1
XMN1 z a vss VBN nmos l= 0.016u w= 0.005u m= 2 nfin= 1
.ends invx2s

