.subckt nand2x1s a b z vdd vss VBP VBN
XMP1 z a vdd VBP pmos l= 0.016u w= 0.005u m= 1 nfin= 1
XMP2 z b vdd VBP pmos l= 0.016u w= 0.005u m= 1 nfin= 1
XMN1 iT1 a vss VBN nmos l= 0.016u w= 0.005u m= 1 nfin= 1
XMN2 z b iT1 VBN nmos l= 0.016u w= 0.005u m= 1 nfin= 1
.ends nand2x1s

