.subckt invx1t a z vdd vss VBP VBN
XMP1 z a vdd VBP pmos l= 0.016u w= 0.005u m= 1 nfin= 3
XMN1 z a vss VBN nmos l= 0.016u w= 0.005u m= 1 nfin= 3
.ends invx1t

